US05250679
Over a period of 15 minutes samples of iodine (8.62 grams, 0.034 mol) and silver benzoate (7.78 grams, 0.034 mol) were added in portions to a magnetically stirred solution of 5 grams of 1-phenylpiperazine in 80 mL acetic acid. The mixture stirred for 1 hour. The solvent was evaporated and the residue partioned between 150 mL diethyl ether and 150 mL 2N sodium hydroxide. The organic layer was washed with 100 mL water, 100 mL brine, then dried over potassium carbonate and concentrated in vacuo to yield 1.0 gram (11%) of 1-(4-iodophenyl)-piperzine (110°-115° C.). The material obtained was used without further purification. 1H NMR (CDCl3, dTMS) 7.51 (2H, d, 3JHH =9 Hz, m-ArH), 6.69 (2H, d, 3JHH =9 Hz, o-ArH), 3.17 (4H, m), 3.04 (4H, m). 13 C NMR (CDCl3) 151.36, 137.73, 118.05, 81.35, 49.92, 45.95.

reactant | iodine | 0.034 mol, 8.62 grams | II | I2
reactant | 1-phenylpiperazine | 5 grams | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
catalyst | silver benzoate | 0.034 mol, 7.78 grams | C(C1=CC=CC=C1)(=O)[O-].[Ag+]
product | 1-(4-iodophenyl)-piperzine | 1.0 gram, 11% | IC1=CC=C(C=C1)N1CCNCC1 | C10H13IN2
